US07696231B2
N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-5-(2-pyridinyl)-2-thiophenesulfonohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 5-(2-pyridinyl)-2-thiophenesulfonohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 23 mg of the title compound (23%) as a yellow solid in 94.8% purity by HPLC (Rt: 3.68, 5.13, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 5-(2-pyridinyl)-2-thiophenesulfonohydrazide | N1=C(C=CC=C1)C1=CC=C(S1)S(=O)(=O)NN | C9H9N3O2S2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-5-(2-pyridinyl)-2-thiophenesulfonohydrazide | 23 mg, 23% | IC=1C=C2C(C(NC2=CC1)=O)=NNS(=O)(=O)C=1SC(=CC1)C1=NC=CC=C1 | C17H11IN4O3S2
